US09446130B2
To a solution of methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-methoxy-2-oxoethyl) imidazo[1,5-a]pyrazin-1-yl)benzoate (11.4 g, 23.3 mmol) in THF (100 mL) was added acrylonitrile (1.4 g, 25.6 mmol) and t-BuOK (2.3 mL, 1M in THF). The mixture was stirred at RT for 2 hrs. The reaction was complete detected by TLC (PE/EtOAc 1:1). The mixture was extracted with EA and water, the organic layer was dried and concentrated, the residue was purified by column chromatography on silica gel eluted with PE:EA:DCM=2:1:1 to give methyl 4-(3-(4-cyano-1-methoxy-1-oxobutan-2-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate (12 g, yield 94%).

reactant | methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-methoxy-2-oxoethyl) imidazo[1,5-a]pyrazin-1-yl)benzoate | 23.3 mmol, 11.4 g | COC1=C(CNC=2C=3N(C=CN2)C(=NC3C3=CC=C(C(=O)OC)C=C3)CC(=O)OC)C=CC(=C1)OC | C26H26N4O6
reactant | acrylonitrile | 25.6 mmol, 1.4 g | C(C=C)#N | C3H3N
reactant | t-BuOK | 1M, 2.3 mL | CC(C)(C)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 4-(3-(4-cyano-1-methoxy-1-oxobutan-2-yl)-8-((2,4-dimethoxybenzyl)amino)imidazo[1,5-a]pyrazin-1-yl)benzoate | 12 g, yield 94% | C(#N)CCC(C(=O)OC)C1=NC(=C2N1C=CN=C2NCC2=C(C=C(C=C2)OC)OC)C2=CC=C(C(=O)OC)C=C2 | C29H29N5O6
